US04175190
155 G. of 2,4-diamino-6-chloropyrimidine-3-oxide are mixed under an argon atmosphere with 640 ml. of o-xylene and 260 ml. of 1,2,5,6-tetrahydropyridine and the mixture is stirred. The mixture is then heated to reflux for 30 minutes, the internal temperature rising from 115° C. to 123° C. The mixture is then cooled to 5° C., treated with 40 g. of sodium hydroxide in 400 ml. of water and stirred at 5° C. for 1 hour. The precipitate formed is filtered off, washed with 200 ml. of water and recrystallized from 3000 ml. of water, there being obtained pure 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide, having a melting point of 263°-265° C. (decomposition).

reactant | 2,4-diamino-6-chloropyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)Cl | C4H5ClN4O
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
reactant | 1,2,5,6-tetrahydropyridine | N1CC=CCC1 | C5H9N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)N1CCC=CC1 | C9H13N5O
